US06515124B2
A solution of di-tert-butyl dicarbonate (480 mg, 2.2 mmol) in acetonitrile (7.5 mL) was added to a solution of 2-amino-4-trifluoromethylthiazole-5-carboxylic acid ethyl ester (500 mg, 2.1 mmol) and N,N-dimethylaminopyridine (26 mg, 0.2 mmol) in acetonitrile (7.5 mL). The solution was stirred at room temperature for 1 h and then a further portion of di-tert-butyl dicarbonate (120 mg, 0.55 mmol) was added. After the solution was allowed to stir at room temperature for 2 h, the volatiles were evaporated under reduced pressure and the residual material was chromatographed over silica gel (0-50% ethyl acetate/hexanes) to furnish (5-ethoxycarbonyl-4-trifluoromethylthiazol-2-yl)carbamic acid, 1,1-dimethylethyl ester (554 mg, 78% yield).

reactant | di-tert-butyl dicarbonate | 2.2 mmol, 480 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-amino-4-trifluoromethylthiazole-5-carboxylic acid ethyl ester | 2.1 mmol, 500 mg | C(C)OC(=O)C1=C(N=C(S1)N)C(F)(F)F | C7H7F3N2O2S
reactant | di-tert-butyl dicarbonate | 0.55 mmol, 120 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 7.5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 7.5 mL | C(C)#N | C2H3N
product | (5-ethoxycarbonyl-4-trifluoromethylthiazol-2-yl)carbamic acid, 1,1-dimethylethyl ester | 554 mg, 78% yield | C(C)OC(=O)C1=C(N=C(S1)NC(OC(C)(C)C)=O)C(F)(F)F | C12H15F3N2O4S
